2139-05-01 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2139-4-30**] 04:01 PM
 NASAL SWAB - At [**2139-5-1**] 04:00 AM
   MRSA
   - Received total of 180 iv lasix (OSH, ED + 80 MICU). CXR unchanged
   with minimal UOP.  Given dose of metolazone 5 mg and lasix 40 mg iv.
   - LENI - no evidence of DVT
   - FeNa 2.7
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.56 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2139-4-30**] 06:35 PM
   Furosemide (Lasix) - [**2139-5-1**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-1**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.7
   HR: 67 (58 - 68) bpm
   BP: 137/41(66) {114/33(56) - 154/88(102)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     77 mL
                                                                    112 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                     77 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    180 mL
   Urine:
                                                                    490 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 647 (3 - 670) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.26/40/120/19/-8
   Ve: 10.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General: Awake, alert, obese, follows commands, communicative and
   appropriate, speaking in full sentences with CPAP
   HEENT: NC/AT; PERRLA, EOMI
   Neck: Supple, unable to evaluate JVD given neck obesity
   Lungs: Limited exam, but decreased BS at bases, otherwise clear
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused with chronic venous stasis and 2+ pitting
   edema to the knees
   Labs / Radiology
   194 K/uL
   8.4 g/dL
   105 mg/dL
   5.0 mg/dL
   19 mEq/L
   6.4 mEq/L
   92 mg/dL
   110 mEq/L
   141 mEq/L
   26.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2139-4-30**]  05:22 PM
                             [**2139-4-30**]  05:55 PM
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
   WBC
   7.9
   Hct
   26.9
   Plt
   194
   Cr
   4.9
   4.9
   5.0
   TropT
   0.05
   TCO2
   19
   Glucose
   94
   95
   105
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:8.1 mg/dL, Mg++:2.8 mg/dL, PO4:7.3
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6717**] is a 70 year old female with a PMH significant CHF,
   HTN, DM 2 admitted for dyspnea.
   # Dyspnea: Likely secondary to volume overload in patient with CHF,
   although unknown if patient has diastolic or systolic dysfunction with
   now surface echocardiogram on records.  CXR consistent with volume
   overload without focal consolidations. LENIs negative for DVT.  Patient
   ruled out for ACS with serial cardiac biomarkers and repeat ECG.
   Patient with minimal responsiveness to diuretics (TBB -500 since
   admission) after 220 mg IV lasix and 5 mg metolazone.
   - Can continue diuresis, although unlikely to be successful given renal
   function
   - Consult renal for renal failure, volume overload, and electrolyte
   abnormalities.
   - Wean BiPaP as tolerated.
   #  Renal Failure: Per patient's daughter, the patient has a history of
   [**Name (NI) 348**] although unclear of baseline. She is not anuric/oliguric, but is
   minimally responsive to diuretics. FeNa overnight >2 with negative
   urine eos, suggesting intra-renal process including ATN.
   - As above, given electrolyte abnromalities, volume overload, and renal
   failure consult renal for possible HD initiation.
   - Monitor electrolytes, UOP
   # Hyperkalemia: Patient has received multiple rounds of kayexalate and
   enemas with minimal stooling. ECG unchanged, although serum potassium
   still elevated.
   - Continue kayexalate titrated to BM.
   # UTI: Initial UA with 21-50 epis and pyuria. Repeat UA without pyuria
   after receiving ceftaz and ampicillin at OSH.  Given that patient has
   also endorsed pyuria, will treat as UTI.
   - Ciprofloxacin for 7 day course.
   - Follow-up urine cultures
   # DM 2: Reports of hypoglycemia likely in setting of glyburide use in
   [**Name (NI) 348**]/acute on chronic renal failure given that glyburide is renally
   cleared.
   - Hold orals and continue ISS.
   # Hypothermia/Hypotension: Likely spurious results given lack of
   abnormal temps and BP during admission.
   - Trend VS
   # ?Asthma/COPD
   - Continue inhalers per home regimen
   FEN: NPO, Correct/Replete electrolytes
   PPx: Heparin SQ, PPI (on at home), bowel regimen
   Access: PIV
   Code: Full, confirmed with daughter/HCP
   Communication: [**First Name8 (NamePattern2) 4198**] [**Name (NI) 6705**] (daughter/HCP): [**Telephone/Fax (1) 6706**]
   Disposition: ICU level of care for now given BiPaP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-4-30**] 04:15 PM
   20 Gauge - [**2139-4-30**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-02 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mrs. [**Known lastname 6717**] is a 70 year old female with a PMH
   significant CHF, HTN, DM 2 admitted for dyspnea.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2139-5-1**] 09:00 AM
 ULTRASOUND - At [**2139-5-1**] 10:30 AM
   - Talked to patient's PCP [**Last Name (NamePattern4) **]. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6731**] - ([**Telephone/Fax (1) 6732**]. One month
   ago, BUN/Creatinine was 67/3 and creatinine is normally [**2-4**], though it
   has been trending up as creatinine was 2.7 in [**Month (only) **]. She has not had a
   formal work-up for her renal failure. Of note, she has had DM at least
   for the past 4-5 years (as long as current PCP has been caring for her)
   and HbA1C in [**Month (only) 349**] was 5.9. She also had a TTE on [**2139-3-31**] that showed
   concentric LVH, an EF > 55% with trace MR and no WMA.
   - was on shovel mask during day but went back on bipap overnight
   because looked tired
   - lasix, Chlorothiazide -> 140 cc/hr uop for a while, then slowed in
   evening
   - had large bm, potassium normalizing
   - renal u/s - no hydronephrosis
   - ECHO - LVH, nl LVEF, RV nl size, 1+MR, mild [**Last Name (un) 5490**]
   - full code; discussed with patient and family, patient wants dni/dnr
   but fam wants full code.
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-1**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-1**] 10:30 AM
   Pantoprazole (Protonix) - [**2139-5-1**] 08:32 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-1**] 08:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: no cp
   Respiratory: Dyspnea
   Gastrointestinal: no abdominal pain
   Flowsheet Data as of  [**2139-5-2**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 68 (63 - 72) bpm
   BP: 123/44(63) {109/26(50) - 145/49(68)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.7 kg (admission): 119 kg
             Total In:
                                                                    587 mL
                                                                     66 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    487 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    595 mL
   Urine:
                                                                  1,680 mL
                                                                    595 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,893 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 331 (326 - 462) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Distended, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   156 K/uL
   8.1 g/dL
   82 mg/dL
   5.4 mg/dL
   19 mEq/L
   4.7 mEq/L
   97 mg/dL
   110 mEq/L
   145 mEq/L
   25.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-4-30**]  05:22 PM
                             [**2139-4-30**]  05:55 PM
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
                             [**2139-5-1**]  04:11 PM
                             [**2139-5-2**]  02:16 AM
   WBC
   7.9
   7.7
   Hct
   26.9
   26.0
   25.3
   Plt
   194
   156
   Cr
   4.9
   4.9
   5.0
   5.3
   5.4
   TropT
   0.05
   TCO2
   19
   Glucose
   94
   95
   105
   84
   82
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.1
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6717**] is a 70 year old female with a PMH significant CHF,
   HTN, DM 2 admitted for dyspnea.
   # Dyspnea: Likely secondary to volume overload in patient with CHF,
   although unknown if patient has diastolic or systolic dysfunction with
   no surface echocardiogram on records.  CXR consistent with volume
   overload without focal consolidations. LENIs negative for DVT.  Patient
   ruled out for ACS with serial cardiac biomarkers and repeat ECG.
   Patient with minimal responsiveness to diuretics (TBB -500 since
   admission) after 220 mg IV lasix and 5 mg metolazone.
   - Continue diuretic challenge with lasix and thiazide, although
   unlikely to be successful given renal function
   - Consult renal for renal failure, volume overload, and electrolyte
   abnormalities.
   - Wean CPAP as tolerated.
   - TTE
   # Renal Failure: Per patient's daughter, the patient has a history of
   [**Name (NI) 348**] although unclear of baseline. She is minimally responsive to
   diuretics. FeNa overnight >2 with negative urine eos.
   - As above, given electrolyte abnormalities, volume overload, and renal
   failure consult Renal.
   - Monitor electrolytes, UOP
   - Check electrolytes Q12H given continued diuresis and electrolyte
   abnormalities.
   - Discuss with PCP regarding baseline creatinine.
   # Hyperkalemia: Patient has received multiple rounds of kayexalate and
   enemas with minimal stooling. ECG unchanged, although serum potassium
   still elevated.
   - Continue kayexalate/lactulose titrated to BM.
   # UTI: Initial UA with 21-50 epis and pyuria. Repeat UA without pyuria
   after receiving ceftaz and ampicillin at OSH.  Given that patient has
   also endorsed pyuria, will treat as UTI.
   - Ciprofloxacin for 7 day course ([**12-10**]).
   - Follow-up urine cultures
   # DM 2: Reports of hypoglycemia likely in setting of glyburide use in
   [**Month/Day (4) 348**]/acute on chronic renal failure given that glyburide is renally
   cleared.
   - Hold orals and continue ISS.
   # Hypothermia/Hypotension: Likely spurious results given lack of
   abnormal temps and BP during admission.
   - Trend VS
   # ?Asthma/COPD
   - Continue inhalers per home regimen
   FEN: NPO given CPAP requirement, Correct/Replete electrolytes
   PPx: Heparin SQ, PPI (on at home), bowel regimen
   Access: PIV
   Code: Full, confirmed with daughter/HCP
   Communication: [**First Name8 (NamePattern2) 4198**] [**Name (NI) 6705**] (daughter/HCP): [**Telephone/Fax (1) 6706**]
   Disposition: ICU level of care for now given CPAP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-4-30**] 04:15 PM
   20 Gauge - [**2139-4-30**] 04:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-02 08:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  CHF, DM, HTN, CRI, COPD
 admitted with CHF
   Diuresing
   BIPAP last night
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2139-5-1**] 09:00 AM
 renal ULTRASOUND - At [**2139-5-1**] 10:30 AM
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-1**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-1**] 10:30 AM
   Pantoprazole (Protonix) - [**2139-5-1**] 08:32 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-1**] 08:32 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-2**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.3
   HR: 68 (63 - 72) bpm
   BP: 160/49(75) {109/26(50) - 160/49(75)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.7 kg (admission): 119 kg
             Total In:
                                                                    587 mL
                                                                    124 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    487 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    775 mL
   Urine:
                                                                  1,680 mL
                                                                    775 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,893 mL
                                                                   -651 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 498 (326 - 498) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///19/
   Ve: 5.7 L/min
   Physical Examination
   Sleep but arousable, on bipap
   Disrant bs
   Rrr
   Abd obese
   Extreme obese, edema
   Labs / Radiology
   CXR improved fluffy infiltrates, persistent volume loss LLL
   8.1 g/dL
   156 K/uL
   82 mg/dL
   5.4 mg/dL
   19 mEq/L
   4.7 mEq/L
   97 mg/dL
   110 mEq/L
   145 mEq/L
   25.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-4-30**]  05:22 PM
                             [**2139-4-30**]  05:55 PM
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
                             [**2139-5-1**]  04:11 PM
                             [**2139-5-2**]  02:16 AM
   WBC
   7.9
   7.7
   Hct
   26.9
   26.0
   25.3
   Plt
   194
   156
   Cr
   4.9
   4.9
   5.0
   5.3
   5.4
   TropT
   0.05
   TCO2
   19
   Glucose
   94
   95
   105
   84
   82
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.1
   mg/dL
   Assessment and Plan
   Respiratory failure requiring BIPAP
 likely diastolic CHF,
   atelectasis, continue to diurese, BIPAP
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 continue to diurese
   and follow creatinine, no need for RRT for now
 DIABETES MELLITUS (DM), TYPE II
 cont insulin
   UTI
 cont antibiotics
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-4-30**] 04:15 PM
   20 Gauge - [**2139-4-30**] 04:16 PM
   Prophylaxis:
   DVT: sc hep, boots,
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : icu
   Total time spent:  36

2139-05-03 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2139-5-2**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2139-5-3**] 01:15 AM
   - Continued lasix gtt
   - Placed back on CPAP overnight for increased WOB.
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-2**] 11:00 AM
   Infusions:
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-2**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-2**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.2
C (95.4
   HR: 64 (60 - 73) bpm
   BP: 143/41(67) {132/36(58) - 160/66(86)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.7 kg (admission): 119 kg
             Total In:
                                                                    633 mL
                                                                    170 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    513 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    750 mL
   Urine:
                                                                  2,495 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,862 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 270 (270 - 460) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///21/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Distended, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   162 K/uL
   8.6 g/dL
   68 mg/dL
   5.3 mg/dL
   21 mEq/L
   4.3 mEq/L
   94 mg/dL
   110 mEq/L
   145 mEq/L
   27.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2139-4-30**]  05:22 PM
                             [**2139-4-30**]  05:55 PM
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
                             [**2139-5-1**]  04:11 PM
                             [**2139-5-2**]  02:16 AM
                             [**2139-5-2**]  04:22 PM
                             [**2139-5-3**]  04:05 AM
   WBC
   7.9
   7.7
   6.9
   Hct
   26.9
   26.0
   25.3
   27.6
   Plt
   194
   156
   162
   Cr
   4.9
   4.9
   5.0
   5.3
   5.4
   5.3
   5.3
   TropT
   0.05
   TCO2
   19
   Glucose
   94
   95
   105
   84
   82
   109
   68
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:7.5
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6717**] is a 70 year old female with a PMH significant CHF,
   HTN, DM 2 admitted for dyspnea.
   # CHF exacerbation/dyspnea:  Has diastolic dysfunction and admitted in
   the setting of worsening dyspnea, increased LE edema, and medication
   nonadherence.  CXR consistent with gross volume overload.  LENIs
   negative for DVT and ROMI with neg CEs.  Diuresing well to lasix gtt,
   chlorothiazide.  Patient with hypoxemia this AM off CPAP with
   significant wheezing.
   - Continue chlorothiazide, lasix gtt
   - Start solumedrol 60 mg Q8H
   - Goal TBB -2 liters/day
   - Q12H lytes
   - Wean CPAP as tolerated
   - Consider non-contrast CT chest if no improvement in AM
   # Renal Failure:  History of CKD and baseline Cr 3-4 per PCP.  [**Name10 (NameIs) **]
   with exacerbation in setting of poor forward flow and volume overload.
   Initially concern for need for hemodialysis given poor UOP and
   hyperkalemia but now responsive to diuretics.
   - CHF management as above
   - Follow-up renal recs if any
   - Renal diet
   # Hyperkalemia: Patient has received multiple rounds of kayexalate and
   enemas and is now responding.
   - Continue kayexalate/lactulose prn titrated to BM.
   # UTI: Initial UA with 21-50 epis and pyuria. Repeat UA without pyuria
   after receiving ceftaz and ampicillin at OSH.  Given that patient has
   also endorsed pyuria, will treat as UTI.
   - Ciprofloxacin (day [**2-3**])
   - Follow-up urine cultures
   # DM 2: Reports of hypoglycemia likely in setting of glyburide use in
   CKD/acute on chronic renal failure given that glyburide is renally
   cleared.
   - Hold orals and continue ISS.
   # Hypothermia/Hypotension: Likely spurious results given lack of
   abnormal temps and BP during admission.
   - Trend VS
   # ?Asthma/COPD
   - Continue inhalers per home regimen
   - Solumedrol as above.
   FEN: Renal diet, Correct/Replete electrolytes
   PPx: Heparin SQ, PPI (on at home), bowel regimen
   Access: PIV
   Code: Presumed full, d/w patient and family today.
   Communication: [**First Name8 (NamePattern2) 4198**] [**Last Name (NamePattern1) 6705**] (daughter/HCP): [**Telephone/Fax (1) 6706**]
   Disposition: ICU level of care for now given CPAP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-4-30**] 04:15 PM
   20 Gauge - [**2139-4-30**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-03 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  mostly on bipap
   Taken off this morning during morning rounds and became tachypneic and
   hypoxemic
   Diuresed successfully
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2139-5-2**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2139-5-3**] 01:15 AM
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-2**] 11:00 AM
   Infusions:
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-2**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-2**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-3**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.2
C (95.4
   HR: 64 (60 - 73) bpm
   BP: 143/41(67) {132/36(58) - 160/66(86)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.7 kg (admission): 119 kg
             Total In:
                                                                    633 mL
                                                                    182 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    513 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    750 mL
   Urine:
                                                                  2,495 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,862 mL
                                                                   -568 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 270 (270 - 460) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///21/
   Ve: 5.2 L/min
   Physical Examination
   Off of bipap
 inspiratory crackles and exp wheezes, moderate
   respiratory distress
   On bipap
 comfortable
   RRR
   Abd benign
   Extrem edema
   Labs / Radiology
   8.6 g/dL
   162 K/uL
   68 mg/dL
   5.3 mg/dL
   21 mEq/L
   4.3 mEq/L
   94 mg/dL
   110 mEq/L
   145 mEq/L
   27.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2139-4-30**]  05:22 PM
                             [**2139-4-30**]  05:55 PM
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
                             [**2139-5-1**]  04:11 PM
                             [**2139-5-2**]  02:16 AM
                             [**2139-5-2**]  04:22 PM
                             [**2139-5-3**]  04:05 AM
   WBC
   7.9
   7.7
   6.9
   Hct
   26.9
   26.0
   25.3
   27.6
   Plt
   194
   156
   162
   Cr
   4.9
   4.9
   5.0
   5.3
   5.4
   5.3
   5.3
   TropT
   0.05
   TCO2
   19
   Glucose
   94
   95
   105
   84
   82
   109
   68
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:7.5
   mg/dL
   CXR persistent volume loss LLL, patchy infiltrates RLL
 perhaps worse
   Assessment and Plan
 respiratory failure requiring BIPAP
 exam suggestive of edema and
   bronchospasm
 continue to diurese and restart steroids for asthma/COPD
   flare, proceed with low threshold to start abx for pna
   RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 baseline creatinine
   around 3, follow
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 as above, diurese
 DIABETES MELLITUS (DM), TYPE II
 cont insulin
 URINARY TRACT INFECTION (UTI)
 finish cipro course
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-4-30**] 04:15 PM
   20 Gauge - [**2139-4-30**] 04:16 PM
   Prophylaxis:
   DVT: boots, sc hep
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
 will clarify with family
   Disposition : icu
   Total time spent: 37

2139-05-04 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off CPAP in afternoon. BP to 190/43, patient increased WOB and
   looking uncomfortable. Placed back on CPAP, gave IV labetalol 5 x1.
   Started labetolol 100 mg po tid.
   - d/c'd ciprofloxacin, as patient completed course.
   - PICC order placed as patient with only 1 PIV and IV nurse unable to
   get another.
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-3**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-3**] 11:45 PM
   Labetalol - [**2139-5-4**] 02:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-4**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 66 (65 - 80) bpm
   BP: 137/29(57) {135/29(57) - 191/53(85)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.7 kg (admission): 119 kg
             Total In:
                                                                    796 mL
                                                                     86 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    676 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    530 mL
   Urine:
                                                                  3,150 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,354 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (276 - 427) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///20/
   Ve: 7.5 L/min
   Physical Examination
   General: Awake, alert, obese, follows commands
   HEENT: NC/AT; PERRLA, EOMI
   Neck: Supple, unable to evaluate JVD given neck obesity
   Lungs: Limited exam, but decreased BS at bases, otherwise clear
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused with chronic venous stasis and 2+ pitting
   edema to the knees
   Labs / Radiology
   136 K/uL
   8.7 g/dL
   142 mg/dL
   5.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   105 mg/dL
   106 mEq/L
   145 mEq/L
   27.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2139-4-30**]  05:22 PM
                             [**2139-4-30**]  05:55 PM
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
                             [**2139-5-1**]  04:11 PM
                             [**2139-5-2**]  02:16 AM
                             [**2139-5-2**]  04:22 PM
                             [**2139-5-3**]  04:05 AM
                             [**2139-5-3**]  04:47 PM
                             [**2139-5-4**]  03:30 AM
   WBC
   7.9
   7.7
   6.9
   4.8
   Hct
   26.9
   26.0
   25.3
   27.6
   27.5
   Plt
   194
   156
   162
   136
   Cr
   4.9
   4.9
   5.0
   5.3
   5.4
   5.3
   5.3
   5.3
   5.0
   TropT
   0.05
   TCO2
   19
   Glucose
   94
   95
   105
   84
   82
   109
   68
   142
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:8.8
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6717**] is a 70 year old female with a PMH significant CHF,
   HTN, DM 2 admitted for dyspnea.
   # CHF exacerbation/dyspnea:  Has diastolic dysfunction and admitted in
   the setting of worsening dyspnea, increased LE edema, and medication
   nonadherence.  CXR consistent with gross volume overload.  Also
   component of COPD. LENIs negative for DVT and ROMI with neg CEs.
   Continues to require CPAP.
   - Volume:  chlorothiazide, lasix gtt (-4lt/day goal; [**Location 4431**]7Lt)
   - afterload reduction: nitro ggt
   - COPD:  solumedrol 60 mg Q8H, prn nebs
   - PICC line
   - Wean CPAP as tolerated
   - low threshold for abx
   - family mtg
   # Renal Failure:  History of CKD and baseline Cr 3-4 per PCP.  [**Name10 (NameIs) **]
   with exacerbation in setting of poor forward flow and volume overload.
   Initially concern for need for hemodialysis given poor UOP and
   hyperkalemia but now responsive to diuretics.
   - CHF management as above
   - if anuric then dialysis
   - Follow-up renal recs if any
   # Hyperkalemia: Patient has received multiple rounds of kayexalate and
   enemas and is now responding.
   - Continue kayexalate/lactulose prn titrated to BM.
   # UTI: Initial UA with 21-50 epis and pyuria. Repeat UA without pyuria
   after receiving ceftaz and ampicillin at OSH.  Given that patient has
   also endorsed pyuria, will treat as UTI.
   - completed ciprofloxacin (day [**2-3**])
   - urine cultures no growth
   # DM 2: Reports of hypoglycemia likely in setting of glyburide use in
   CKD/acute on chronic renal failure given that glyburide is renally
   cleared.
   - Hold orals and continue ISS.
   # Hypothermia/Hypotension: Likely spurious results given lack of
   abnormal temps and BP during admission.
   - Trend VS
   # ?Asthma/COPD
   - Continue inhalers per home regimen
   - Solumedrol as above.
   FEN: Renal diet, Correct/Replete electrolytes
   PPx: Heparin SQ, PPI (on at home), bowel regimen
   Access: PIV
   Code: Presumed full, d/w patient and family today.
   Communication: [**First Name8 (NamePattern2) 4198**] [**Last Name (NamePattern1) 6705**] (daughter/HCP): [**Telephone/Fax (1) 6706**]
   Disposition: ICU level of care for now given CPAP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-4-30**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-05 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PCP [**Name Initial (PRE) **]: [**Name10 (NameIs) **],[**First Name7 (NamePattern1) 211**] [**Initial (NamePattern1) 27**] [**Last Name (NamePattern4) **] Location: THE [**Hospital **] CLINIC
   Address: [**Street Address(2) 6781**], [**Hospital1 **],[**Numeric Identifier 6782**] Phone: [**Telephone/Fax (1) 6783**]
   - restarted chlorothiazide
   - UOP falling off
   - A-fib with RVR mid-morning of [**2139-5-5**]
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-3**] 10:00 AM
   Infusions:
   Nitroglycerin - 3 mcg/Kg/min
   Furosemide (Lasix) - 25 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-4**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-5**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 70 (64 - 73) bpm
   BP: 159/41(71) {138/36(63) - 164/79(92)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.7 kg (admission): 119 kg
             Total In:
                                                                  1,179 mL
                                                                    485 mL
   PO:
                                                                    305 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    874 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    360 mL
   Urine:
                                                                  1,690 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -511 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (380 - 720) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///20/
   Ve: 8.8 L/min
   Physical Examination
   GEN: Obese female in mild respiratory distress
   HEENT: Sclera anicteric. MMM
   LUNGS: Crackles bilaterally
   HEART: RRR
   ABD: Obese. NT. Brown stool from tube
   EXTREM: 2+ edema bilaterally
   NEURO: A+OX3
   Labs / Radiology
   143 K/uL
   7.7 g/dL
   203 mg/dL
   5.2 mg/dL
   20 mEq/L
   3.6 mEq/L
   112 mg/dL
   105 mEq/L
   144 mEq/L
   23.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2139-4-30**]  09:55 PM
                             [**2139-5-1**]  03:54 AM
                             [**2139-5-1**]  04:11 PM
                             [**2139-5-2**]  02:16 AM
                             [**2139-5-2**]  04:22 PM
                             [**2139-5-3**]  04:05 AM
                             [**2139-5-3**]  04:47 PM
                             [**2139-5-4**]  03:30 AM
                             [**2139-5-4**]  04:00 PM
                             [**2139-5-5**]  03:13 AM
   WBC
   7.9
   7.7
   6.9
   4.8
   4.9
   Hct
   26.9
   26.0
   25.3
   27.6
   27.5
   23.6
   Plt
   194
   156
   162
   136
   143
   Cr
   4.9
   5.0
   5.3
   5.4
   5.3
   5.3
   5.3
   5.0
   5.2
   5.2
   TropT
   0.05
   Glucose
   95
   105
   84
   82
   109
   68
   142
   186
   203
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB /
   Troponin-T:52//0.05, ALT / AST:[**8-17**], Alk Phos / T Bili:124/,
   Albumin:3.7 g/dL, LDH:166 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:8.3
   mg/dL
   Assessment and Plan
   70yo F admitted with CC of dyspnea likely [**1-5**] acute diastolic CHF
   exacerbation.
   # Atrial Fib: Started mid-morning on [**2139-5-5**].  Assoc with chest pain.
   Currently with rates of 100-110.
   - Cardiology consult
   - continue lasix gtt
   - diltiazem for rate control, hold labetolol
   - ASA 325
   - repeat ECG when rate controlled
   #. Acute diastolic CHF exacerbation: UOP not increased with
   chlorothiazide and high-dose lasix gtt.
   - consider renal Consult for HD if family/patient agree to more
   aggressive care as not diuresing well on lasix gtt
   - Continue CPAP/BiPAP as needed
   - Daily weight, strict I/O
s, low-salt diet
   - d/c steriods
   - continue nitro gtt for afterload reduction
   #. Anemia: Hct dropped 4 points since yesterday. Consider volume
   overload in setting of poor diuresis vs GIB vs hemolysis.
   - Iron studies yesterday c/w iron deficiency anemia
   - guaiac stools
   - hemolysis labs
   - recheck hct today and if lower consider transfusion however will hold
   for now given volume overload
   #. ARF: Stable on lasix gtt however not diuresing well.
   - Would consider renal cls today for HD if needed for volume overload
   - renally dose meds
   - follow UOP
   #. COPD: Continue inhalers. Attempt to wean steroids as able given
   fluid retention (as above).
   - d/c solumedrol today
   #. DM2: increase ISS.
   #. Will call PCP, [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6731**] [**Telephone/Fax (1) 6790**], for goals of care and
   better communication with family.
   ICU Care
   Nutrition: Low salt/renal diet
   Glycemic Control:  Iss
   Lines:
   18 Gauge - [**2139-5-4**] 10:30 AM
   20 Gauge - [**2139-5-4**] 12:00 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PPI
   Communication:  Comments: With patient and family and pcp
   [**Name9 (PRE) 156**] status: Full code
   Disposition: ICU while on CPAP

2139-05-06 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Af with RVR in am. Started on dilt gtt and heparin. Cards consulted
   and will try DCCV in am. Also started on lopressor 5mg QID.
   - In setting of AF with RVR had STD laterally and STE in AVR with
   slight trop elevation. Cards thought consistent with demand. Started
   beta blocker and heparin as above. Controlled rate. EKG ordered for am.
   - Family met with Dr. [**Last Name (STitle) **]. changed code status to DNR/DNI. Brought up
   hospice care and likely will want this in the next few days. Will not
   want HD.
   - Hct was low in am but stable throughout day. Hemolysis labs were
   negative. Guaiac negative.
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-3**] 10:00 AM
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Diltiazem - 15 mg/hour
   Furosemide (Lasix) - 20 mg/hour
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Diltiazem - [**2139-5-5**] 11:50 AM
   Heparin Sodium - [**2139-5-5**] 05:50 PM
   Pantoprazole (Protonix) - [**2139-5-5**] 10:21 PM
   Metoprolol - [**2139-5-6**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-6**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 83 (71 - 148) bpm
   BP: 121/40(59) {97/38(56) - 157/98(103)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 112.7 kg (admission): 119 kg
   Height: 61 Inch
             Total In:
                                                                  1,475 mL
                                                                    471 mL
   PO:
                                                                    260 mL
             TF:
   IVF:
                                                                  1,215 mL
                                                                    471 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    160 mL
   Urine:
                                                                  1,135 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    340 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 646 (468 - 646) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 87%
   ABG: ///22/
   Ve: 5.9 L/min
   Physical Examination
   GEN: NAD on mask
   HEENT: anicteric sclera. MMM
   LUNGS: Crackles bilaterally
   HEART: Irregularly irregular.
   ABD: Obese. NT
   EXTREM: 2+ pitting edema
   NEURO: A+OX3
   Labs / Radiology
   128 K/uL
   7.7 g/dL
   207 mg/dL
   5.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   116 mg/dL
   101 mEq/L
   139 mEq/L
   23.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2139-5-3**]  04:47 PM
                             [**2139-5-4**]  03:30 AM
                             [**2139-5-4**]  04:00 PM
                             [**2139-5-5**]  03:13 AM
                             [**2139-5-5**]  11:33 AM
                             [**2139-5-5**]  12:44 PM
                             [**2139-5-5**]  03:51 PM
                             [**2139-5-5**]  06:05 PM
                             [**2139-5-5**]  08:00 PM
                             [**2139-5-6**]  03:58 AM
   WBC
   4.8
   4.9
   7.2
   Hct
   27.5
   23.6
   24.3
   24.9
   23.0
   Plt
   136
   143
   128
   Cr
   5.3
   5.0
   5.2
   5.2
   5.1
   5.5
   TropT
   0.07
   0.08
   0.13
   Glucose
   142
   186
   203
   217
   207
   Other labs: PT / PTT / INR:19.2/150.0/1.8, CK / CKMB /
   Troponin-T:57//0.13, ALT / AST:[**8-17**], Alk Phos / T Bili:124/0.3,
   Albumin:3.7 g/dL, LDH:170 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:7.4
   mg/dL
   Assessment and Plan
   70 y.o. female with CHF, HTN, DM, here with a chief complaint of SOB
   likely secondary to acute diastolic CHF exacerbation in setting of med
   non-compliance.
   #. Goals of Care: From family meeting yesterday patient and family
   leaning toward hospice
 would need inpatient hospice. Will need to
   clarify goals of care today because will change the rest of her plan
   for the day.
   # Diastolic CHF: Currently stable off and on NIV over the day
   yesterday.
   - Ctes on lasix gtt to maintain even balance.
   - Cte beta blocker/dilt gtt to keep HR in 80s for better diastolic
   filling
   #. AFib: Currently controlled on dilt gtt and metoprolol 5mg IV QID
   - Appreciate cards recs
   - Will discuss dccv although would need to reverse code status and
   intubate in setting of sedation so will d/w cardiology whether this is
   indicated or possibly trying medical cardioversion
   - Cte heparin gtt
   #. Demand ischemia: Patient had chest pain, dynamic EKG changes (c/w LM
   disease), and trop bump with flat CKs during AF with RVR. Currently on
   hep gtt and beta blocker. not a cath candidate given goals of care.
   - Cte hep gtt, beta blocker
   - Consider statin and aspirin as able if ctes current goals of care
   #. Anemia: Hcts stable. Hemolysis labs negative. Guaiac negative.
   Consider volume overload with poor diuresis and CHF giving dilutional
   effect.
   - Cte to monitor hcts
   - transfuse for hct <21 as already having trouble with volume status
   # Renal Failure: Baseline creatinine 3. With diuresis creatining has
   bumped to 5.5 but continues to make good urine per hour.-
   - Continue to monitor UOP
   - Family does not want HD and neither does patient
   # FEN
   - NPO
   - Correct/Replete electrolytes
   # Prophylaxis
   - hep gtt
   - PPI
   - Bowel Regimen
   # Access:
   - PIVs
   # Code: DNR/DNI on [**2139-5-5**], confirmed with patient's daughter and HCP
   [**Name (NI) 4198**]
     [**Name (NI) 6705**] - [**Telephone/Fax (1) 6706**] as well as patient
   # Communication: Patient and her daughter as above
   # Disposition: ICU level of care for now with potential for palliative
   care and hospice